US04221914
To a solution of 10 mmole of 1-tosylimidazol-5-ylmethanol in 10 ml of chloroform is added dropwise 20 mmole of triethylamine followed by the addition of 13 mmole of acetic anhydride over a period of 2 hours. Stirring is continued for 5 hours at 25° C. after which the solvent is removed under reduced pressure. The residue is partitioned between ethyl acetate and water. The organic phase is washed with sodium bicarbonate, dried over magnesium sulfate and evaporated under vacuo. Recrystallization of the residue from ethyl acetate yields 5-acetoxymethyl-1-tosylimidazole.

reactant | 1-tosylimidazol-5-ylmethanol | 10 mmole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC=C1CO | C11H12N2O3S
reactant | triethylamine | 20 mmole | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 13 mmole | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-acetoxymethyl-1-tosylimidazole | C(C)(=O)OCC1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1 | C13H14N2O4S
